US09216980B2
Step 3: 6-(1-Benzyl-1H-1,2,3-triazol-4-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A mixture of 6′-ethynyl-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4]bipyridinyl-3′-ylamine (60 mg, 0.16 mmol), copper (I) iodide (3.0 mg, 0.016 mmol), and azidomethylbenzene (29 mg, 0.22 mmol) in N,N-dimethylformamide (2 mL) was heated at 60° C. for 2 h. The cooled reaction mixture was diluted with DCM (20 mL) and methanol (2 mL) and washed with water (15 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a brown residue that was taken to the next step without purification.

reactant | 6′-ethynyl-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4]bipyridinyl-3′-ylamine | 0.16 mmol, 60 mg | C(#C)C1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C24H23FN4
reactant | azidomethylbenzene | 0.22 mmol, 29 mg | N(=[N+]=[N-])CC1=CC=CC=C1 | C7H7N3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
catalyst | copper (I) iodide | 0.016 mmol, 3.0 mg | [Cu]I
product | 6-(1-Benzyl-1H-1,2,3-triazol-4-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C31H29N7
